US04339450
E-4-[2-Hydroxy-3-(β-dimethylaminoethylamino)-propoxy]imino-4,5,6,7-tetrahydrobenzo[b]thiophene (I) (R1 =H, R2 =(CH3)2N--(CH2)2 ; n=2).
This compound is prepared by the procedure described in Example 1 by condensing E-4-(2,3-epoxypropoxy)imino-4,5,6,7-tetrahydrobenzo[b]thiophene with β-dimethylaminoethylamine. Dioxalate: white crystals; m.p. 222° C. (recrystallised from methanol/water); yield: 28% of theory.

reactant | E-4-(2,3-epoxypropoxy)imino-4,5,6,7-tetrahydrobenzo[b]thiophene | O1C(CO\N=C\2/CCCC=3SC=CC32)C1 | C11H13NO2S
reactant | β-dimethylaminoethylamine | CN(CCN)C | C4H12N2
product | E-4-[2-Hydroxy-3-(β-dimethylaminoethylamino)-propoxy]imino-4,5,6,7-tetrahydrobenzo[b]thiophene | yield: 28% | OC(CO\N=C\1/CCCC=2SC=CC21)CNCCN(C)C | C15H25N3O2S
